US07635715B2
Step F: Preparation of N-((7-Bromo-4-hydroxy-6-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine
A mixture of 1,1-dimethylethyl N-((7-bromo-4-hydroxy-6-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate (0.27 g, 0.54 mmol) in 3 mL TFA was stirred at room temperature for 30 minutes, M+1=440/442. The mixture was concentrated and triturated in ether (20 mL). The solid was filtered, washed with 10 mL ether and dried under high vacuum to give 0.22 g of the product as a white solid. MS m/e=440/442 (M+H)+. Calculated for C18H18BrNO7 439.03/441.02.

reactant | 1,1-dimethylethyl N-((7-bromo-4-hydroxy-6-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 0.54 mmol, 0.27 g | BrC1=C(C=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)NCC(=O)OC(C)(C)C)O)OC | C22H26BrNO7
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((7-Bromo-4-hydroxy-6-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine | 0.22 g | BrC1=C(C=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)NCC(=O)O)O)OC | C18H18BrNO7
